US09382228B2
A −78° C. solution of 2-methoxy-2-methylpropanamide (0.25 g, 2.134 mmol) in THF (6 mL) was treated drop-wise with lithium bis(trimethylsilyl)amide (1M in THF, 2.77 mL, 2.77 mmol) stirred for 0.5 h. A solution of isopropenyl chloroformate (0.257 mL, 2.347 mmol) in THF (1 mL) was added drop-wise and the mixture was stirred at −78° C. for 1 h. The mixture was warmed to RT, stirred for 1 h, quenched with satd. NaHCO3, extracted with EtOAc (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness to afford prop-1-en-2-yl (2-methoxy-2-methylpropanoyl)carbamate (440 mg, 102%). MS (ESI) m/z: 202.1 (M+H+).

reactant | 2-methoxy-2-methylpropanamide | 2.134 mmol, 0.25 g | COC(C(=O)N)(C)C | C5H11NO2
reactant | lithium bis(trimethylsilyl)amide | 2.77 mmol, 1M, 2.77 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | isopropenyl chloroformate | 2.347 mmol, 0.257 mL | ClC(=O)OC(=C)C | C4H5ClO2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | prop-1-en-2-yl (2-methoxy-2-methylpropanoyl)carbamate | 440 mg, 102% | COC(C(=O)NC(OC(=C)C)=O)(C)C | C9H15NO4
